US08349824B2
A mixture of methyl 2-(tert-butoxycarbonylamino)-5-fluoroisonicotinate (1.80 g, 6.66 mmol) and hydrochloric acid (6N in ether, 40 ml, 240 mmol) is stirred for 20 hours at 25° C. The solvent is evaporated and the light brown slurry is diluted with ethyl acetate, cooled to 0° C. and adjusted to pH 8 with sat. aqueous sodium carbonate solution. The organic layer is washed with brine, dried with magnesium sulfate and the solvent is removed under reduced pressure affording methyl 2-amino-5-fluoroisonicotinate (932 mg, 82.2%) as a brown waxy solid. MS: m/z=171.0 (M+H+).

reactant | methyl 2-(tert-butoxycarbonylamino)-5-fluoroisonicotinate | 6.66 mmol, 1.80 g | C(C)(C)(C)OC(=O)NC=1C=C(C(=O)OC)C(=CN1)F | C12H15FN2O4
reactant | hydrochloric acid | 240 mmol, 6N, 40 ml | Cl | ClH
product | methyl 2-amino-5-fluoroisonicotinate | 932 mg, 82.2% | NC=1C=C(C(=O)OC)C(=CN1)F | C7H7FN2O2
